US06716851B2
4-(3-Nitroanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
The title compound was prepared from 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine (50 mg, 0.243 mmol) and 3-nitroaniline (34 mg, 0.243 mmol) similar to Example 11 as a yellow solid (65 mg, 87%). 1H NMR (DMSO-d6): 10.17 (s, 1H), 9.18 (s, 1H), 8.77 (d, J=4.8 Hz, 1H), 8.39 (d, J=8.1 Hz, 1H), 8.13 (d, J=7.2 Hz, 1H), 7.98 (t, J=6.9 Hz, 1H), 7.86 (d, J=8.4 Hz, 1H), 7.63 (t, J=8.3 Hz, 1H), 7.55-7.51 (m, 1H), 6.74 (s, 1H), 2.47 (s, 3H).

reactant | 4-chloro-6-methyl-2-(2-pyridinyl)pyrimidine | 0.243 mmol, 50 mg | ClC1=NC(=NC(=C1)C)C1=NC=CC=C1 | C10H8ClN3
reactant | 3-nitroaniline | 0.243 mmol, 34 mg | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
product | 4-(3-Nitroanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | [N+](=O)([O-])C=1C=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=CC1 | C16H13N5O2
